US07435830B2
2-(4-Chloro-3-methoxy-phenyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (39.5 mg, 0.1 mmol, 1 equiv) was treated with 4 mL of 4N HCl in dioxane at rt for 1 h. The volatile was removed and to the residue were added 1 mL of DMF, (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (24.3 mg, 1 equiv), HATU (42 mg, 1.1 equiv), TEA (50 μL, 3 equiv). After stirring at rt over night, the mixture was taken up in EtOAc, washed with saturated sodium NaHCO3. Purification by reverse phase HPLC (acetonitrile-H2O with 0.1% TFA as eluent) gave 2-(4-Chloro-3-methoxy-phenyl)-8-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-2,8-diaza-spiro[4.5]decan-1-one. LCMS observed for (M+H)+: 519. Retention time: 4.75 minutes (Agilent Zorbax SB-C 18, 2.1×50 mm, 5μ, 35° C.) using a 4.5 minutes gradient of 20% to 95% B with a 1.1 minutes wash at 95% B (A=0.1% formic acid/5% acetonitrile/94.9% water, B=0.1% formic acid/99.9% acetonitrile).

reactant | 2-(4-Chloro-3-methoxy-phenyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 0.1 mmol, 39.5 mg, 1 equiv | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=CC(=C(C=C2)Cl)OC)CC1 | C20H27ClN2O4
reactant | HCl | 4N, 4 mL | Cl | ClH
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 24.3 mg, 1 equiv | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
reactant | HATU | 42 mg, 1.1 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-Chloro-3-methoxy-phenyl)-8-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-2,8-diaza-spiro[4.5]decan-1-one | ClC1=C(C=C(C=C1)N1C(C2(CC1)CCN(CC2)C(CN2N=C(C(=C2C)Cl)C(F)(F)F)=O)=O)OC | C22H23Cl2F3N4O3
